US04421690
A mixture of 1.33 g (0.0019 mol) of [1α,3β,7ξ]-7-bromo-24,24-difluorocholest-5-en-1,3,25-triol 1,3-diacetate, 0.8 mL of s-collidine and 10 mL of xylene was heated at reflux (140° C.) for 0.5 hr and cooled. The mixture was diluted with 30 mL of benzene. This solution was washed with 10% aqueous sulfuric acid, and saturated aqueous sodium bicarbonate solution. The organic phase was dried over anhydrous magnesium sulfate, filtered, and evaporated to dryness. The residue was purified by column chromatography on 0.06-0.20 mm silica gel to yield [1α,3β]-24,24-difluorocholesta-5,7-dien-1,3,25-triol 1,3-diacetate, [α]D25 -31° (c 0.4, CHCl3), mp 130°-132°. UV max (C2H5OH) 261 (ε7750), 270 (ε11,200), 281 (ε12,100) and 293 nm (ε7100).

reactant | [1α,3β,7ξ]-7-bromo-24,24-difluorocholest-5-en-1,3,25-triol 1,3-diacetate | 0.0019 mol, 1.33 g | C(C)(=O)O[C@H]1C[C@@H](CC2=CC([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(C(C)(C)O)(F)F)C)[C@]4(CC[C@@H]3[C@@]12C)C)Br)OC(C)=O | C31H47BrF2O5
reactant | s-collidine | 0.8 mL | CC1=CC(=NC(=C1)C)C | C8H11N
reactant | xylene | 10 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | [1α,3β]-24,24-difluorocholesta-5,7-dien-1,3,25-triol 1,3-diacetate | C(C)(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](CCC(C(C)(C)O)(F)F)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C31H46F2O5
